US09399639B2
Step 2) 1-(5-(4-chlorophenyl)-3-(2,6-difluoro-3-(propylsulfonamido)benzoyl)-1H-pyrrolo[2,3-b]pyridin-1-yl)ethyl cyclopentanecarboxylate
The title compound was prepared according to the procedure as described in Example 12 Step 2 using N-(3-(5-(4-chlorophenyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl)-2,4-difluorophenyl)propane-1-sulfonamide (0.3 g, 0.61 mmol) in anhydrous DMF (2.5 mL), KOH (69 mg, 1.23 mmol) and a solution of 1-chloroethyl cyclopentanecarboxylate (108 mg, 0.61 mmol) in anhydrous DMF (0.5 mL). The curde product was purified by a silica gel column chromatography (PE/EtOAc (v/v)=5/1) and recrystallized in PE to give the title compound as a white solid (147 mg, 38%). The title compound was characterized by LC-MS and 1H NMR as shown below:

reactant | N-(3-(5-(4-chlorophenyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl)-2,4-difluorophenyl)propane-1-sulfonamide | 0.61 mmol, 0.3 g | ClC1=CC=C(C=C1)C=1C=C2C(=NC1)NC=C2C(=O)C=2C(=C(C=CC2F)NS(=O)(=O)CCC)F | C23H18ClF2N3O3S
reactant | KOH | 1.23 mmol, 69 mg | [OH-].[K+]
reactant | 1-chloroethyl cyclopentanecarboxylate | 0.61 mmol, 108 mg | C1(CCCC1)C(=O)OC(C)Cl | C8H13ClO2
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 1-(5-(4-chlorophenyl)-3-(2,6-difluoro-3-(propylsulfonamido)benzoyl)-1H-pyrrolo[2,3-b]pyridin-1-yl)ethyl cyclopentanecarboxylate | 147 mg, 38% | C1(CCCC1)C(=O)OC(C)N1C=C(C=2C1=NC=C(C2)C2=CC=C(C=C2)Cl)C(C2=C(C(=CC=C2F)NS(=O)(=O)CCC)F)=O | C31H30ClF2N3O5S
